US07312359B2
A solution of 4-(3-fluoro-phenyl)-4-oxo-butyric acid methyl ester (28.27 g, 134.49 mmol), hydrazine monohydrate (26.1 mL, 26.93 g, 537.96 mmol) and KOH (22.64 g, 403.47 mmol) in ethylene glycol (150 mL) was heated to reflux under argon and refluxed for 2 hours. The reaction mixture was cooled and diluted with 1.5 litres of water, 500 mL of Et2O was added, and the mixtures was acidified by addition of 6 M HCl with stirring, after which an additional 500 mL of Et2O was added. The organic layer was removed and the aqueous layer was extracted twice with 250 mL of 500 mL of Et2O/EtOAc (3:1). The combined organic layers were washed with water, saturated brine, and then dried over MgSO4. The solvent was evaporated under reduced pressure to yield a brownish oil, which was eluted through silica gel using hexanes/EtOAc (9:1). Removal of solvent under reduced pressure yielded 18.44 g (101.21 mmol, 75.26%) of 4-(3-fluoro-phenyl)-butyric acid as an oil. MS: 183 (M+H)+.

reactant | 4-(3-fluoro-phenyl)-4-oxo-butyric acid methyl ester | 134.49 mmol, 28.27 g | COC(CCC(=O)C1=CC(=CC=C1)F)=O | C11H11FO3
reactant | hydrazine monohydrate | 537.96 mmol, 26.1 mL, 26.93 g | O.NN
reactant | KOH | 403.47 mmol, 22.64 g | [OH-].[K+]
reactant | HCl | 6 M | Cl | ClH
solvent | ethylene glycol | 150 mL | C(CO)O | C2H6O2
solvent | water | 1.5 litres | O | H2O
solvent | Et2O | 500 mL | CCOCC | C4H10O
solvent | Et2O | 500 mL | CCOCC | C4H10O
product | 4-(3-fluoro-phenyl)-butyric acid | 101.21 mmol, 18.44 g, 75.26% | FC=1C=C(C=CC1)CCCC(=O)O | C10H11FO2
